US04710570
Preparation of 3-(p-carbethoxyphenylimino)-3H-phenothiazine (Compound AD-14)
To a warm and stirred suspension of 4 g (0.02 mole) finely powdered phenothiazine and 4 g (0.024 mole) ethyl-p-aminobenzoate in 200 ml methanol was added a solution of 10 g of iodine in 150 ml methanol. After stirring at room temperature for 2 hours, the dark precipitate was filtered, washed repeatedly with methanol, and dissoved in 100 ml chloroform and 10 ml triethylamine. The chloroform solution was shaken with water and separated. Purification through alumina and recrystallisation from ether gave purple leaflets. Yield 5.5 g (76%).

reactant | phenothiazine | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
reactant | ethyl-p-aminobenzoate | 0.024 mole, 4 g | C(C)OC(C1=CC=C(C=C1)N)=O | C9H11NO2
reactant | iodine | 10 g | II | I2
solvent | methanol | 200 ml | CO | CH4O
solvent | methanol | 150 ml | CO | CH4O
product | 3-(p-carbethoxyphenylimino)-3H-phenothiazine | C(=O)(OCC)C1=CC=C(C=C1)N=C1C=CC2=NC3=CC=CC=C3SC2=C1 | C21H16N2O2S
